US06245328B1
A solution of (4R,5R)-(2,2-dimethyl-5-propyl-1,3-dioxolan-4- yl)methanol p-toluenesulfonate (3.04 g, 9.25 mmol) in 30 ml of diethyl ether was added dropwise at 0° C. and under argon to a stirred suspension of lithium aluminum hydride (0.380 g, 10 mmol) in 50 ml of diethyl ether. The mixture was additionally stirred at 20° C. for 24 hours. The excess of lithium aluminum hydride was destroyed by addition of 0.2 ml of water. After stirring for 5 minutes, the mixture was treated with 1.8 ml of 10% strength by weight sodium hydroxide solution. The resulting mixture was additionally stirred vigorously for a further 10 minutes. The precipitate was then filtered off and the filter residue was extracted three times with 50 ml of tetrahydrofuran in each case. The combined organic phases were dried over anhydrous sodium sulfate. After chromatography on 100 g of silica gel using n-pentane containing 10-20% by volume of diethyl ether as eluent, the residue yielded 92% of (4R,5R)-2,2,5-trimethyl-4-propyl-1,3-dioxolane as a colorless oil ([α]D20=+6.28° (c=2.5 in trichloromethane)).

reactant | (4R,5R)-(2,2-dimethyl-5-propyl-1,3-dioxolan-4- yl)methanol p-toluenesulfonate | 9.25 mmol, 3.04 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(O[C@@H]1CCC)(C)C)C | C16H24O5S
reactant | lithium aluminum hydride | 10 mmol, 0.380 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (4R,5R)-2,2,5-trimethyl-4-propyl-1,3-dioxolane | 92% | CC1(O[C@@H]([C@H](O1)CCC)C)C | C9H18O2
